US05760050
3-Benzyl-8-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one
Prepared by the procedure of Example 1 from 3-methylphenol and ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride. Yield 60%; mp 109°-111° C.

reactant | 3-methylphenol | CC=1C=C(C=CC1)O | C7H8O
reactant | ethyl 1-benzyl-4-oxo-3-piperidinecarboxylate hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OCC
product | 3-Benzyl-8-methyl-1,2,3,4-tetrahydro-chromeno[3,4-c]pyridin-5-one | Yield 60% | C(C1=CC=CC=C1)N1CC2=C(CC1)C=1C=CC(=CC1OC2=O)C | C20H19NO2
